US05801176
2-[2-[4-(6-Fluorobenzo[b]thien-3-yl)-1-piperazinyl]-ethyl-2,3-dihydro-3-hydroxy-1H-isoindol-1-one
To a stirred suspension of N-[2-[4-(6-fluorobenzo[b]thien-3-yl)-1-piperazinyl]-ethyl]phthalimide (2.7 g, 6.6 mmol) in a mixture of 200 ml absolute EtOH and 50 ml CH2 Cl2 under N2 was added Sodium Borohydride (0.56 g, 14.8 mmol) in one portion. The mixture was stirred at room temperature for 15 minutes, during which time the solids dissolved. At the end of 15 minutes, TLC [silica, 1:1 heptane:EtOAc] showed no starting material remained and a major, lower Rf spot had appeared.

reactant | N-[2-[4-(6-fluorobenzo[b]thien-3-yl)-1-piperazinyl]-ethyl]phthalimide | 6.6 mmol, 2.7 g | FC=1C=CC2=C(SC=C2N2CCN(CC2)CCN2C(C=3C(C2=O)=CC=CC3)=O)C1 | C22H20FN3O2S
reactant | Sodium Borohydride | 14.8 mmol, 0.56 g | [BH4-].[Na+]
reactant | heptane | CCCCCCC | C7H16
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOH | 200 ml | CCO | C2H6O
solvent | Cl2 | 50 ml | ClCl | Cl2
product | 2-[4-(6-Fluorobenzo[b]thien-3-yl)-1-piperazinyl]-ethyl-2,3-dihydro-3-hydroxy-1H-isoindol-1-one | FC=1C=CC2=C(SC=C2N2CCN(CC2)CCN2C(C3=CC=CC=C3C2O)=O)C1 | C22H22FN3O2S
